US04179505
A mixture of 1.9 parts of 5-[4-(diphenylmethyl)-1-piperazinylmethyl]-1-methyl-1H-benzimidazole-2-methanol, 1.55 parts of acetic acid anhydride and 45 parts of methylbenzene is stirred and refluxed for 2 hours. The reaction mixture is cooled, washed with a diluted ammonium hydroxide solution and the layers are separated. The organic phase is dried, filtered and evaporated. The residue is crystallized from a mixture of methylbenzene and 2,2'-oxybispropane (20:20 by volume). The product is filtered off and dried, yielding 1.5 parts (74.4%) of {5-[4-(diphenylmethyl)-1-piperazinylmethyl]-1-methyl-1H-benzimidazol-2-ylmethyl}acetate; mp. 201.1° C.

reactant | 5-[4-(diphenylmethyl)-1-piperazinylmethyl]-1-methyl-1H-benzimidazole-2-methanol | C1(=CC=CC=C1)C(N1CCN(CC1)CC1=CC2=C(N(C(=N2)CO)C)C=C1)C1=CC=CC=C1 | C27H30N4O
reactant | acetic acid anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | methylbenzene | CC1=CC=CC=C1 | C7H8
product | {5-[4-(diphenylmethyl)-1-piperazinylmethyl]-1-methyl-1H-benzimidazol-2-ylmethyl}acetate | 74.4% | C1(=CC=CC=C1)C(N1CCN(CC1)CC1=CC2=C(N(C(=N2)COC(C)=O)C)C=C1)C1=CC=CC=C1 | C29H32N4O2
